Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Codeine / Augmentin / Topamax
 
Attending: ___.
 
Chief Complaint:
left knee osteoarthritis/pain
 
Major Surgical or Invasive Procedure:
___: left total knee arthroplasty

 
History of Present Illness:
___ year old female w/left knee osteoarthritis/pain who failed 
conservative measures, now admitted for left total knee 
arthroplasty. 
 
Past Medical History:
Dyslipidemia, varicose veins (R>L) s/p ligation, COPD, OSA 
(+CPap), recent URI (received course of Zithromax), bilateral 
PEs (___), antiphospholipid antibody syndrome (on lifelong 
anticoagulation), T2DM (last A1C 6.2 on ___, cerebral 
aneurysm (followed by Dr. ___, unchanged), GERD, 
diverticulosis, h/o colon polyps, depression, s/p right CMC 
joint arthroplasty, b/l rotator cuff repair, excision right ___ 
digit mass, CCY w/stone & pancreatic duct exploration (___), 
hysterectomy, tonsillectomy 
 
Social History:
___
Family History:
No family hx of DVT or PE, two sisters have atrial fibrillation. 
 

 
Physical Exam:
Well appearing in no acute distress  
 Afebrile with stable vital signs  
 Pain well-controlled  
 Respiratory: CTAB  
 Cardiovascular: RRR  
 Gastrointestinal: NT/ND  
 Genitourinary: Voiding independently  
 Neurologic: Intact with no focal deficits  
 Psychiatric: Pleasant, A&O x3  
 Musculoskeletal Lower Extremity:  
 * Aquacel dressing with scant serosanguinous drainage  
 * Thigh full but soft  
 * No calf tenderness  
 * ___ strength  
 * SILT, NVI distally  
 * Toes warm 
 
Pertinent Results:
___ 06:30AM BLOOD WBC-6.8 RBC-2.69* Hgb-8.3* Hct-25.3* 
MCV-94 MCH-30.9 MCHC-32.8 RDW-13.0 RDWSD-44.0 Plt ___
___ 06:10AM BLOOD WBC-6.4 RBC-2.77* Hgb-8.6* Hct-26.0* 
MCV-94 MCH-31.0 MCHC-33.1 RDW-13.1 RDWSD-44.7 Plt ___
___ 06:22AM BLOOD WBC-7.6 RBC-3.31* Hgb-10.2*# Hct-30.5*# 
MCV-92 MCH-30.8 MCHC-33.4 RDW-12.8 RDWSD-42.6 Plt ___
___ 06:30AM BLOOD Plt ___
___ 06:30AM BLOOD ___
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD ___
___ 06:22AM BLOOD Plt ___
___ 06:22AM BLOOD ___
___ 10:55AM BLOOD ___
___ 06:22AM BLOOD Glucose-136* UreaN-8 Creat-0.7 Na-138 
K-3.7 Cl-96 HCO3-27 AnGap-15
___ 06:22AM BLOOD Calcium-8.4 Phos-3.1 Mg-1.7
 
Brief Hospital Course:
The patient was admitted to the Orthopaedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

Postoperative course was remarkable for the following:
POD #1, patient was administered 500ml bolus of IV fluids for 
hypotension ___, which she responded to appropriately. She 
reported nausea on oxycodone and was switched to dilaudid with 
no reported adverse effects.
POD #2, patient had INR of 1.8 and lovenox was discontinued. 
Patient will continue Coumadin 5mg daily. Next INR check day 
after discharge. Please direct results and all questions to PCP 
for INR monitoring/Coumadin dosing.
POD #3, INR 2.0 and patient will be due for 5mg Coumadin upon 
arrival to rehab facility.

Otherwise, pain was controlled with a combination of IV and oral 
pain medications.  The patient received Coumadin starting on 
POD#0 with a Lovenox bridge starting on POD#1.  Lovenox to be 
continued until INR > 1.5 and discontinued on POD #2 with INR 
1.8. Coumadin was dosed daily based on her INR levels.  The 
surgical dressing will remain on until POD#7 after surgery. The 
patient was seen daily by physical therapy. Labs were checked 
throughout the hospital course and repleted accordingly. At the 
time of discharge the patient was tolerating a regular diet and 
feeling well.  The patient was afebrile with stable vital signs. 
 The patient's hematocrit was acceptable and pain was adequately 
controlled on an oral regimen. The operative extremity was 
neurovascularly intact and the dressing was intact.

The patient's weight-bearing status is weight bearing as 
tolerated on the operative extremity. Please use walker or 2 
crutches, wean as able.

Ms. ___ is discharged to rehab in stable condition.

**Patient will be in rehab facility for less than 30 days**
 
Medications on Admission:
1. Albuterol 0.083% Neb Soln 2 NEB IH Q4H:PRN wheezing, cough 
2. Atorvastatin 40 mg PO QPM 
3. econazole 1 % topical BID 
4. Enoxaparin Sodium 110 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
5. Furosemide ___ mg PO DAILY:PRN leg swelling 
6. MetFORMIN (Glucophage) 500 mg PO QPM 
7. Omeprazole 20 mg PO BID 
8. Sertraline 100 mg PO DAILY 
9. TraZODone 50 mg PO QHS:PRN insomnia 
10. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID:PRN 
rash/itching 
11. Warfarin ___ mg PO DAILY16 
12. Aspirin 81 mg PO DAILY 
13. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
2.  Gabapentin 100 mg PO TID 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
do NOT drink alcohol or drive while taking med 
4.  Senna 8.6 mg PO BID 
5.  Acetaminophen 1000 mg PO Q8H 
6.  Warfarin 5 mg PO TO BE DOSED DAILY PER PCP 
DOSED DAILY PER PCP, GOAL INR 1.8-2.2 
7.  Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath  
8.  Aspirin 81 mg PO DAILY  
9.  Atorvastatin 40 mg PO QPM  
10.  econazole 1 % topical BID  
11.  Furosemide ___ mg PO DAILY:PRN leg swelling  
12.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
13.  Omeprazole 20 mg PO BID  
14.  Sertraline 100 mg PO DAILY  
15.  TraZODone 50 mg PO QHS:PRN insomnia  
16.  Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID:PRN 
rash/itching  
17.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
left knee osteoarthritis/pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
  
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 
  
3. Resume your home medications unless otherwise instructed.
  
4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.
  
5. You may not drive a car until cleared to do so by your 
surgeon.
  
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment.
  
7. SWELLING: Ice the operative joint 20 minutes at a time, 
especially after activity or physical therapy. Do not place ice 
directly on the skin. You may wrap the knee with an ace bandage 
for added compression. Please DO NOT take any non-steroidal 
anti-inflammatory medications (NSAIDs such as Celebrex, 
ibuprofen, Advil, Aleve, Motrin, naproxen etc) until cleared by 
your physician.
  
8. ANTICOAGULATION: Lovenox discontinued on ___ due to INR 
1.8. INR goal is 1.8-2.2. Please continue Coumadin 5mg daily. 
INR to be checked day after discharge. Please direct all INR 
results to patient's PCP. You may continue your dose of Aspirin 
81mg daily.
  
9. WOUND CARE: Please remove Aquacel dressing on POD#7 after 
surgery. It is okay to shower after surgery after 5 days but no 
tub baths, swimming, or submerging your incision until after 
your four (4) week checkup. Please place a dry sterile dressing 
on the wound after aqaucel is removed each day if there is 
drainage, otherwise leave it open to air. Check wound regularly 
for signs of infection such as redness or thick yellow drainage. 
 

10. ___ (once at home): Home ___, dressing changes as 
instructed, and wound checks.
  
11. ACTIVITY: Weight bearing as tolerated on the operative 
extremity. Two crutches or walker.  Wean assistive device as 
able. Mobilize.  ROM as tolerated. No strenuous exercise or 
heavy lifting until follow up appointment. 

Physical Therapy:
WBAT LLE
No range of motion restrictions
Wean assistive devices as able
Mobilize frequently
Treatments Frequency:
remove aquacel POD#7 after surgery
apply dry sterile dressing daily if needed after aquacel 
dressing is removed
wound checks daily after aquacel removed

 
Followup Instructions:
___